US05294626
b) 3-(2-(4-Toluenesulphonylamino)indan-5-yl)-3-(3-pyridyl)-prop-2-enoic acid
4.2 g of ethyl 3-(2-(4-toluenesulphonylamino)indan-5-yl)-3-(3-pyridyl)-prop-2-enoate are refluxed for 30 minutes in 40 ml of ethanol and 1.5 ml of 15N sodium hydroxide solution. Then the cooled solution is washed 3 times with 50 ml of methylene chloride and then acidified. The precipitate formed is washed, dried and then recrystallised from n-butanol.

reactant | ethyl 3-(2-(4-toluenesulphonylamino)indan-5-yl)-3-(3-pyridyl)-prop-2-enoate | 4.2 g | C1(=CC=C(C=C1)S(=O)(=O)NC1CC2=CC=C(C=C2C1)C(=CC(=O)OCC)C=1C=NC=CC1)C | C26H26N2O4S
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 3-(2-(4-Toluenesulphonylamino)indan-5-yl)-3-(3-pyridyl)-prop-2-enoic acid | C1(=CC=C(C=C1)S(=O)(=O)NC1CC2=CC=C(C=C2C1)C(=CC(=O)O)C=1C=NC=CC1)C | C24H22N2O4S
